US05344928
N-(4-Maleimidobutyl)-N-methylaniline
N-(4-Aminobutyl)-N-methylaniline (7.2 g) was dissolved in dichloromethane (70 ml) and maleic anhydride (4 g) was added thereto. The mixture was stirred at room temperature for 2 hours. The solvent was distilled off and then acetic anhydride (10 ml) was added. The resulting mixture was stirred at 100° C. for 5 hours. After concentration, an aqueous sodium bicarbonate was added to the residue to neutralize it. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with hexane/ethyl acetate (2:1) to obtain the desired compound (2.0 g) as yellow needles.

reactant | N-(4-Aminobutyl)-N-methylaniline | 7.2 g | NCCCCN(C1=CC=CC=C1)C | C11H18N2
reactant | maleic anhydride | 4 g | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | N-(4-Maleimidobutyl)-N-methylaniline | 2.0 g | C1(C=CC(N1CCCCN(C1=CC=CC=C1)C)=O)=O | C15H18N2O2
